US09169254B2
N,N-Dimethylformamide (4.2 mL) and thionyl chloride (5.1 mL, 69.7 mmol) were sequentially added to a suspension of sodium 2-(2-bromo-phenyl)ethanesulfonate (4.00 g, 13.9 mmol) in toluene. The mixture was stirred at 100° C. for 66 hours and then poured into ice water. The organic layer and the aqueous layer were separated, and the aqueous layer was extracted with ether. The organic layers were combined and sequentially washed with water and saturated brine, and then dried over sodium sulfate and concentrated under reduced pressure to give 2-(2-bromophenyl)ethanesulfonyl chloride (4.10 g). This was used in the next step without further purification.

reactant | N,N-Dimethylformamide | 4.2 mL | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 69.7 mmol, 5.1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium 2-(2-bromo-phenyl)ethanesulfonate | 13.9 mmol, 4.00 g | BrC1=C(C=CC=C1)CCS(=O)(=O)[O-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(2-bromophenyl)ethanesulfonyl chloride | 4.10 g | BrC1=C(C=CC=C1)CCS(=O)(=O)Cl | C8H8BrClO2S
